### ISSUE TITLE
Regression involving List.Mem and metavariables?

### ISSUE THREAD

**Issue by astahfrom** [JLimperg/aesop#10]
The following worked on commit 18881df492de776382ad68750a429a96ed5b151a

```lean
attribute [aesop unsafe [50% constructors, 50% cases]] List.Mem

theorem Mem.map (f : α → β) (x : α) (xs : List α) (h : x ∈ xs) : f x ∈ List.map f xs := by
  induction h <;> aesop
```

It fails with the following message on commit 8f5dbe86f593c19749d592266ccb27fb4e76aee1

```
tactic 'simp' failed, metavariable has already been assigned
case tail.tail
α : Type u_1
β : Type u_2
f : α → β
x : α
xs : List α
a✝² a✝¹ : α
as✝ : List α
: List.Mem x as✝
: f x ∈ List.map f (a✝¹ :: as✝)
⊢ f x ∈ List.map f (a✝² :: a✝¹ :: as✝)

After applying safe rules, Aesop tried to solve these goals:

(unknown)
case tail
α : Type u_1
β : Type u_2
f : α → β
x : α
xs : List α
a✝¹ : α
as✝ : List α
: List.Mem x as✝
: f x ∈ List.map f as✝
⊢ f x ∈ List.map f (a✝¹ :: as✝)
```

Maybe my attribute is an issue?
Nonetheless, the following proof works:

```lean
attribute [aesop unsafe [50% constructors, 50% cases]] List.Mem

theorem Mem.map (f : α → β) (x : α) (xs : List α) (h : x ∈ xs) : f x ∈ List.map f xs := by
  induction h
  case head =>
    aesop
  case tail x _ _ ih =>
    apply List.Mem.tail (f x) ih
```

**Comment by astahfrom** [comment]
Followup: it works when using the new patterns builder in the attribute:

```lean
attribute [aesop unsafe [50% constructors, 50% (cases (patterns := [List.Mem _ (_ :: _)]))]] List.Mem

theorem Mem.map (f : α → β) (x : α) (xs : List α) (h : x ∈ xs) : f x ∈ List.map f xs := by
  induction h <;> aesop
```

**Comment by JLimperg** [comment]
That's definitely a regression. Thanks for the report! I'll take a look after my holidays (i.e. in two weeks).
